US04146721
14.9 grams 3,3-diacetyl-propionic acid-ethyl ester, 14.1 grams (α,α,α-trifluoro-m-tolyl)-hydrazine, 4.8 grams glacial acetic acid and 100 milliliters ethanol were mixed, and the mixture heated to boiling temperature under reflux for 1 hour. The reaction mixture was evaporated and the residue distilled to produce 22.3 grams of crude 3,5-dimethyl-1-(α,α,α-trifluoro-m-tolyl)-pyrazol-4-acetic acid ethyl ester. This ester was saponified as and worked up in accordance with the method described in Example (1b), using 4.0 grams sodium hydroxide as the base. The free acid was precipitated from the alkaline solution obtained in this manner by the addition of 2% acetic acid and of sufficient aqueous hydrochloric acid to complete the precipitation.

reactant | 3,3-diacetyl-propionic acid-ethyl ester | 14.9 grams | C(C)OC(CC(C(C)=O)C(C)=O)=O | C9H14O4
reactant | (α,α,α-trifluoro-m-tolyl)-hydrazine | 14.1 grams | FC(C1=CC(=CC=C1)NN)(F)F | C7H7F3N2
reactant | acetic acid | 4.8 grams | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 milliliters | C(C)O | C2H6O
product | 3,5-dimethyl-1-(α,α,α-trifluoro-m-tolyl)-pyrazol-4-acetic acid ethyl ester | 22.3 grams | C(C)OC(CC=1C(=NN(C1C)C=1C=C(C=CC1)C(F)(F)F)C)=O | C16H17F3N2O2
